US08440662B2
Step 5: 2-{4-[3-(4-Dimethycarbamoyl-phenyl)-Ureido]-phenyl}-4-morpholin-4-yl-quinazoline-7-carboxylic acid (2-dimethylamino-ethyl)-amide
To a 50 mL round bottom flask, 2-chloro-4-morpholine-4-yl-quinazoline-7-carboxylic acid (2-dimethylamino-ethyl)-amide (0.08 g, 0.00022 mol), N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide (0.108 g, 0.000264 mol), cesium carbonate (0.143 g, 0.00044 mol), DMF (4 mL), water (1 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (8 mg, 0.000011 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 5 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 15-20% MeOH in chloroform) to yield the crude title compound in 50% yield, followed by preparative HPLC (0.1% TFA in water and ACN) to yield the title compound [0.013 g, 10%]. 1H NMR; (400 MHz, DMSO-d6): δ 9.65 (brs, 1H), 9.55 (s, 1H), 9.17 (s, 1H), 8.45 (brs, 1H), 8.43 (d, 2H, J=8.8 Hz), 8.16 (d, 1H, J=8.4 Hz), 7.96 (brs, 1H), 7.67 (d, 2H, J=8.0 Hz), 7.54 (d, 2H, J=8.4 Hz), 7.38 (d, 2H, J=8.4 Hz), 3.85-3.94 (m, 8H), 3.70 (d, 2H, J=5.2 Hz), 3.43 (brs, 2H), 2.95 (s, 6H), 2.86 (s, 6H): LC-MS (ESI): Calculated mass: 610.3; Observed mass: 611.1 [M+H]+ (RT: 0.08 min).

reactant | 2-chloro-4-morpholine-4-yl-quinazoline-7-carboxylic acid (2-dimethylamino-ethyl)-amide | 0.00022 mol, 0.08 g | CN(CCNC(=O)C1=CC=C2C(=NC(=NC2=C1)Cl)N1CCOCC1)C | C17H22ClN5O2
reactant | N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide | 0.000264 mol, 0.108 g | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C22H28BN3O4
reactant | cesium carbonate | 0.00044 mol, 0.143 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
solvent | ACN | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.000011 mol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-{4-[3-(4-Dimethycarbamoyl-phenyl)-Ureido]-phenyl}-4-morpholin-4-yl-quinazoline-7-carboxylic acid (2-dimethylamino-ethyl)-amide | 0.013 g, 10% | CN(CCNC(=O)C1=CC=C2C(=NC(=NC2=C1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(N(C)C)=O)N1CCOCC1)C | C33H38N8O4
